* C:\Drive\FE_SR\schmitt_trigger\sch_trig_sr.asc
XU1 0 N002 +V -V N003 LT1001
R1 N002 N004 1k
R2 N002 N005 1k
R3 N003 N002 1k
XU2 N001 0 +V -V V_out LT1001
R4 N001 N003 1k
R5 V_out N001 10k
V1 -V 0 -10
V2 +V 0 10
V3 N004 0 PWL file=Ktime_pulse_pwl.txt
V4 N005 0 PWL file=gaussian_noise_pwl.txt
.tran 1s
.options plotwinsize=0
.lib LTC.lib
.backanno
.end
