* C:\Drive\semester 7\BTP-1\work4_EL\finite_element_model\spice_models\solar_cell.asc
RF_f00 T00 T10 0.0001
RF_f10 T10 T20 0.0001
RF_f20 T20 T30 0.0001
RF_f01 T01 T11 0.0001
RF_f11 T11 T21 0.0001
RF_f21 T21 T31 0.0001
RF_f02 T02 T12 0.0001
RF_f12 T12 T22 0.0001
RF_f22 T22 T32 0.0001
RF_f03 T03 T13 0.0001
RF_f13 T13 T23 0.0001
RF_f23 T23 0 0.0001
RF_b00 T00 T01 0.0001
RF_b01 T01 T02 0.0001
RF_b02 T02 T03 0.0001
RF_b10 T10 T11 0.0001
RF_b11 T11 T12 0.0001
RF_b12 T12 T13 0.0001
RF_b20 T20 T21 0.0001
RF_b21 T21 T22 0.0001
RF_b22 T22 T23 0.0001
RF_b30 T30 T31 0.0001
RF_b31 T31 T32 0.0001
RF_b32 T32 0 0.0001

I00 T00 N00 2
D00 N00 T00 D
Rshunt00 N00 T00 1000
Rseries00 B11 N00 0.001

I01 T01 N01 2
D01 N01 T01 D
Rshunt01 N01 T01 1100
Rseries01 B12 N01 0.0009

I02 T02 N02 2
D02 N02 T02 D
Rshunt02 N02 T02 900
Rseries02 B13 N02 0.0011

I10 T10 N10 2
D10 N10 T10 D
Rshunt10 N10 T10 1000
Rseries10 B21 N10 0.001

I11 T11 N11 2
D11 N11 T11 D
Rshunt11 N11 T11 1100
Rseries11 B22 N11 0.0009

I12 T12 N12 2
D12 N12 T12 D
Rshunt12 N12 T12 900
Rseries12 B23 N12 0.0011

I20 T20 N20 2
D20 N20 T20 D
Rshunt20 N20 T20 1000
Rseries20 B31 N20 0.001

I21 T21 N21 2
D21 N21 T21 D
Rshunt21 N21 T21 1100
Rseries21 B32 N21 0.0009

I22 T22 N22 2
D22 N22 T22 D
Rshunt22 N22 T22 900
Rseries22 B33 N22 0.0011
RB_f00 B00 B10 0.0001
RB_f10 B10 B20 0.0001
RB_f20 B20 B30 0.0001
RB_f01 B01 B11 0.0001
RB_f11 B11 B21 0.0001
RB_f21 B21 B31 0.0001
RB_f02 B02 B12 0.0001
RB_f12 B12 B22 0.0001
RB_f22 B22 B32 0.0001
RB_b00 B00 B01 0.0001
RB_b01 B01 B02 0.0001
RB_b02 B02 B03 0.0001
RB_b10 B10 B11 0.0001
RB_b11 B11 B12 0.0001
RB_b12 B12 B13 0.0001
RB_b20 B20 B21 0.0001
RB_b21 B21 B22 0.0001
RB_b22 B22 B23 0.0001
V1 B00 0 DC 0
.dc V1 0 1 0.01
.model D D
.lib C:\Users\manik\AppData\Local\LTspice\lib\cmp\standard.dio
.backanno
.end